### PR TITLE
[Merged by Bors] - feat: asymptotics lemmas

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From https://github.com/MichaelStollBayreuth/EulerProducts

Co-authored-by: Michael Stoll <99838730+MichaelStollBayreuth@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 1]
```diff
@@ -1915,6 +1919,14 @@ theorem isBigO_atTop_iff_eventually_exists_pos {α : Type*}
     f =O[atTop] g ↔ ∀ᶠ n₀ in atTop, ∃ c > 0, ∀ n ≥ n₀, c * ‖f n‖ ≤ ‖g n‖ := by
   simp_rw [isBigO_iff'', ← exists_prop, Subtype.exists', exists_eventually_atTop]
 
+lemma isBigO_mul_iff_isBigO_div {α F : Type*} [NormedDivisionRing F] {l : Filter α} {f g h : α → F}
+    (hf : ∀ᶠ x in l, f x ≠ 0) :
+    (fun x ↦ f x * g x) =O[l] h ↔ g =O[l] (fun x ↦ h x / f x) := by
+  rw [isBigO_iff', isBigO_iff']
+  refine ⟨fun ⟨c, hc, H⟩ ↦ ⟨c, hc, ?_⟩, fun ⟨c, hc, H⟩ ↦ ⟨c, hc, ?_⟩⟩ <;>
+  · refine H.congr <| Eventually.mp hf <| Eventually.of_forall fun x hx ↦ ?_
```
Comment (loefflerd) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1927]: I tried to find a slick way of doing this with "filter_upwards" but I didn't succeed, and this works. (It can be shortened with dot-notation but that makes it even less readable.)

**Comment by loefflerd** [comment]
LGTM

maintainer merge
